US06248766B1
3,3-Diphenylpropyl Iodide
To a solution of sodium iodide (2.80 g, 18.9 mmol) in acetone (20 mL) was added a solution of 3,3-diphenylpropyl methanesulfonate (5.00 g, 17.2 mmol) in acetone (10 mL) at 0° C. and the mixture was refluxed for 3 hours. After cooling, the solvent was distilled off under reduced pressure and the residue was diluted with water (30 mL) and extracted with 2 portions of ethyl acetate. The pooled extract was washed with saturated aqueous sodium chloride solution, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure and the residue was crystallized from methanol to provide 4.70 g of the title compound. Yield 85%.

reactant | sodium iodide | 18.9 mmol, 2.80 g | [I-].[Na+]
reactant | 3,3-diphenylpropyl methanesulfonate | 17.2 mmol, 5.00 g | CS(=O)(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18O3S
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3,3-Diphenylpropyl Iodide | 4.70 g, Yield 85% | C1(=CC=CC=C1)C(CCI)C1=CC=CC=C1 | C15H15I
